### PR TITLE
[Merged by Bors] - feat: subcomplexes of a classical CW complex

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR defines subcomplexes of a (classical relative) CW complex to be a closed subspace which is a union of open cells. It provides additional definitions for alternative ways to describe subcomplexes. Lastly, it refactors the definition of the skeleton to define it as a subcomplex. 

Co-authored-by: Floris van Doorn <fpvdoorn@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 1]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+  rw [empty_union] at this
+  exact this
+
+/-- An alternative version of `Subcomplex`: Instead of requiring that `E` is closed it requires
+  that for every cell of the subcomplex the corresponding closed cell is a subset of `E`. -/
+@[simps -isSimp]
+def RelCWComplex.Subcomplex.mk' [T2Space X] (C : Set X) {D : Set X} [RelCWComplex C D]
+    (E : Set X) (I : Π n, Set (cell C n))
+    (closedCell_subset : ∀ (n : ℕ) (i : I n), closedCell (C := C) n i ⊆ E)
+    (union : D ∪ ⋃ (n : ℕ) (j : I n), openCell (C := C) n j = E) : Subcomplex C where
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: I have a mathematical question about this. It seems to me that more generally any union of closed cells is still closed (assuming that the intersection with the base is closed), is that right? 

Unless I'm missing something obvious, it would go through the following steps, all of which sound like valuable statements by themselves:
- the intersection of two closed cells is the union of all closed cells contained in both of them
- each closed cell only contains finitely many closed cells (note: this is where subcells could be handy)

Then, when you intersect your infinite union of closed cell with any fixed closed cell, you actually get a finite union of closed sets, which is closed (the rewriting of the union may be slightly akward, but I believe it is doable, e.g using [Set.biUnion_iUnion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Lattice.html#Set.biUnion_iUnion)).

If you're not convinced or this is too much work this can be left as future work, but I do believe that this approach is a bit cleaner than going through [Topology.CWComplex.isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/CWComplex/Classical/Basic.html#Topology.CWComplex.isClosed_of_isClosed_inter_openCell_or_isClosed_inter_closedCell).

**Review by ADedecker — COMMENTED** [review]
I'm really sorry for leaving this on the side for so long. While I have a look at the code in detail, I have two high-level remarks/question, one about `Subcomplex.mk'` (see below), and one even more general:

It seems to me that it would be a good idea to introduce, for each naturals `n`, `k`, and every `n`-cell `i`, the finset `subcells i k` of all `k`-cells `j` such that `closedCell k j ⊆ closedCell n i` (or, equivalently, `openCell k j ⊆ closedCell n i`).

I think this would already simplify some existing statements, but more crucially it would allow for a much more combinatorial constructor of subcomplexes, where the closure axiom would be replaced by "any subcell of a cell in the complex stays in the complex".

This condition would for example be very easy to check in the case of the skeleton, and you could replace the private lemma `iUnion_openCell_eq_iUnion_closedCell` by a similar lemma assuming only that your set of cells is stable under taking subcells?

Does this make sense? I may have been tricked by my intuition coming from simplicial/cube complex, but I don't think I've said anything wrong. Of course this can be left as future work, but I claim that eventually the notion of subcell should come relatively early in the API.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 2]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+lemma eq_iff (E F : Subcomplex C) : E = F ↔ (E : Set X) = F :=
+  SetLike.coe_injective.eq_iff.symm
+
+/-- Copy of a `Subcomplex` with a new `carrier` equal to the old one. Useful to fix definitional
+equalities. See Note [range copy pattern]. -/
+protected def copy (E : Subcomplex C) (F : Set X) (hF : F = E) : Subcomplex C :=
+  { carrier := F
+    I := E.I
+    closed' := hF.symm ▸ E.closed'
+    union' := hF.symm ▸ E.union' }
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: I think it would be useful to also allow changing the underlying sets of cells, could you do this?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 3]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+end CWComplex.Subcomplex
+
+lemma CWComplex.Subcomplex.union {C : Set X} [CWComplex C] {E : Subcomplex C} :
+    ⋃ (n : ℕ) (j : E.I n), openCell (C := C) n j = E := by
+  have := RelCWComplex.Subcomplex.union E (C := C) (D := ∅)
+  rw [empty_union] at this
+  exact this
+
+/-- An alternative version of `Subcomplex`: Instead of requiring that `E` is closed it requires
+  that for every cell of the subcomplex the corresponding closed cell is a subset of `E`. -/
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
/-- An alternative version of `Subcomplex.mk`: Instead of requiring that `E` is closed it requires
  that for every cell of the subcomplex the corresponding closed cell is a subset of `E`. -/
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 4]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+namespace RelCWComplex
+
 /-- A non-standard definition of the `n`-skeleton of a CW complex for `n ∈ ℕ ∪ {∞}`.
 This allows the base case of induction to be about the base instead of being about the union of
 the base and some points.
 The standard `skeleton` is defined in terms of `skeletonLT`. `skeletonLT` is preferred
 in statements. You should then derive the statement about `skeleton`. -/
-def RelCWComplex.skeletonLT (C : Set X) {D : Set X} [RelCWComplex C D] (n : ℕ∞) : Set X :=
-  D ∪ ⋃ (m : ℕ) (_ : m < n) (j : cell C m), closedCell m j
+@[simps! -isSimp, irreducible]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:713]: If that's not too hard to do, could you set up the `simps` attribute so that the `carrier` spelling is replaced by the coercion coming from `SetLike`?

**Comment by scholzhannah** [comment]
> It seems to me that it would be a good idea to introduce, for each naturals `n`, `k`, and every `n`-cell `i`, the finset `subcells i k` of all `k`-cells `j` such that `closedCell k j ⊆ closedCell n i` (or, equivalently, `openCell k j ⊆ closedCell n i`).

I have been thinking about this for a few days now and tried to implement your suggestions. In principal, having some notion of subcells or faces sounded useful to me. I have, however, come to the conclusion that subcells are not a well-defined concept in CW complexes. The main issue is that the frontier of a cell can intersect an open cell without containing all of it. 
Here an example: Take  as the 1-skeleton the interval [0,1] with the usual structure made up of two 0-cells and one 1-cell. Now take a 2-cell and put its entire frontier onto the midpoint of the interval. The frontier then intersects the open 1-cell but does not contain it. 
I think this unfortunatly ruins the entire intuition of subcells. Looking online I can also barely find any sources that talk about the concept  of subcells. So sadly, I don't think this approach works.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: > I have a mathematical question about this. It seems to me that more generally any union of closed cells is still closed (assuming that the intersection with the base is closed), is that right?

Unfortunatly, this is not true. See [this StackExchange question](https://math.stackexchange.com/questions/3160139/is-a-union-of-closures-of-cells-in-a-cw-complex-closed) for a counterexample.

Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: > * the intersection of two closed cells is the union of all closed cells contained in both of them

This is sadly also untrue by the same counterexample as in my [comment below](https://github.com/leanprover-community/mathlib4/pull/26201#issuecomment-3227823580).

Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: > * each closed cell only contains finitely many closed cells (note: this is where subcells could be handy)

This is true and I have done the proof in Lean. I have not added it to the PR since I don't use it currently. But I can include it if you want.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 2 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: I don't understand entirely what you want to change exactly. If it is the choice of cells I don't believe that is possible: I think that for every set that has a possible subcomplex structure, this structure (i.e. the choice of cells) is unique.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:713]: I don't have any experience with custom simps projections, so I am a bit lost. If I understand you correctly, you want me to change the current `carrier` simps projection to its symmetric version. Is that correct? I tried to do this using `initialize_simps_projections Subcomplex` but it didn't work. If I understand the library note correctly this is because my new projection needs to be definitionally equal to the original one. How should I do this instead?

**Comment by ADedecker** [comment]
Thanks a lot for your answers. It seems indeed that my intuition was severely distorted by working with more combinatorial structures, sorry for the lost time. Let me look at this again.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: I agree that it is unique, but one may still want to change its *definition* (to a propositionally equal one) to have more convenient definitional equalities.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:713]: What I meant is that we want the canonical spelling for "the set underlying a subcomplex `E`" to be `↑E` rather than `E.carrier`, hence we want the lemmas generated by `@[simps]` to use that spelling.

I did not realize this was already the case just thanks to the `SetLike` instance (this is also dark magic to me, I didn't expect it to be this sophisticated!).

I guess the question of the lemma names remain: to be concrete, I think I would prefer the lemma `skeletonLT_carrier` to be called `coe_skeletonLT`, since the lemma is not about `(skeletonLT C n).carrier`. If you agree, you should add the following right after the `SetLike` instance:
```lean
initialize_simps_projections Subcomplex (carrier → coe, as_prefix coe)
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 5]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+    union' := hF.symm ▸ E.union' }
+
+@[simp] lemma coe_copy (E : Subcomplex C) (F : Set X) (hF : F = E) :
+  (E.copy F hF : Set X) = F := rfl
+
+lemma copy_eq (E : Subcomplex C) (F : Set X) (hF : F = E) : E.copy F hF = E :=
+  SetLike.coe_injective hF
+
+lemma union (E : Subcomplex C) :
+    D ∪ ⋃ (n : ℕ) (j : E.I n), openCell (C := C) (D := D) n j.1 = E := by
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
    D ∪ ⋃ (n : ℕ) (j : E.I n), openCell (C := C) n j = E := by
```
It seems to me that it is never needed to specify `D` explicitly, do you have a motivation in doing so?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 6]
```diff
@@ -523,38 +523,220 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+      rw [← union, union_inter_distrib_right]
+      apply IsClosed.union
+      · rw [inter_comm, (disjointBase n j).inter_eq]
+        exact isClosed_empty
+      · simp_rw [iUnion_inter]
+        suffices ⋃ m, ⋃ (i : ↑(I m)), openCell m (i : cell C m) ∩ openCell (C := C) n j = ∅ by
+          rw [this]
+          exact isClosed_empty
+        apply iUnion_eq_empty.2 fun m ↦ iUnion_eq_empty.2 fun i ↦ ?_
+        exact (disjoint_openCell_of_ne (by aesop)).inter_eq
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
      suffices E ∩ openCell n j = ∅ by
        rw [this]
        exact isClosed_empty
      simp_rw [← union, union_inter_distrib_right, iUnion_inter]
      apply sup_eq_bot_iff.mpr ⟨(disjointBase n j).symm.inter_eq, ?_⟩
      apply iUnion_eq_empty.2 fun m ↦ iUnion_eq_empty.2 fun i ↦ ?_
      exact (disjoint_openCell_of_ne (by aesop)).inter_eq
```
(There is a bit of defeq abuse here, because we don't have `union_eq_empty` so one has to use `sup_eq_bot_iff` instead, but I'd say this is fine)

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 7]
```diff
@@ -565,23 +747,25 @@ lemma RelCWComplex.skeletonLT_monotone [RelCWComplex C D] : Monotone (skeletonLT
...
   skeletonLT_mono (add_le_add_right h 1)
 
 lemma RelCWComplex.skeleton_monotone [RelCWComplex C D] : Monotone (skeleton C) :=
   fun _ _ h ↦ skeleton_mono h
 
-lemma RelCWComplex.skeletonLT_subset_complex [RelCWComplex C D] {n : ℕ∞} : skeletonLT C n ⊆ C := by
-  simp_rw [← skeletonLT_top (C := C) (D := D)]
+lemma RelCWComplex.skeletonLT_subset_complex [RelCWComplex C D] {n : ℕ∞} :
+    (skeletonLT C n : Set X) ⊆ C := by
+  simp_rw [← skeletonLT_top]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: This feels like something which should be a general lemma on subcomplexes. I'm not saying this specific one should be deleted, but the general lemma should exist.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 8]
```diff
@@ -620,27 +805,28 @@ lemma RelCWComplex.iUnion_cellFrontier_subset_skeleton [RelCWComplex C D] (l : 
     ⋃ (j : cell C l), cellFrontier l j ⊆ skeleton C l :=
   (iUnion_cellFrontier_subset_skeletonLT l).trans (skeletonLT_mono le_self_add)
 
-lemma RelCWComplex.base_subset_skeletonLT [RelCWComplex C D] (n : ℕ∞) : D ⊆ skeletonLT C n :=
-  subset_union_left
+lemma RelCWComplex.base_subset_skeletonLT [RelCWComplex C D] (n : ℕ∞) : D ⊆ skeletonLT C n := by
+  simp [skeletonLT_carrier]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: Same remark, this should be a general lemma.

**Review by ADedecker — COMMENTED** [review]
I just had another look with the correct intuition in mind. This looks close to ready. One more question: don't you want an instance of `RelCWComplex E D` whenever you have `[RelCWComplex C D]` and `E : RelCWComplex.Subcomplex C`?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 5 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: This is just a remnant from before when `D` wasn't an `outParam`. I think I have removed all instances of this now.

**Comment by scholzhannah** [comment]
> One more question: don't you want an instance of `RelCWComplex E D` whenever you have `[RelCWComplex C D]` and `E : RelCWComplex.Subcomplex C`?

Yes, my file distribution is a bit awkward. I plan to do this in the next PR and put it in a different file. Currently this PR and file only include content that is strictly necessary for the skeleton. I suppose I could create a file for the skeleton after the file for subcomplexes. That way subcomplexes would not be spread over two files. Let me know if you prefer this, then I will change it.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 2 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Ah, yes sorry, that make sense.

**Comment by ADedecker** [comment]
> I suppose I could create a file for the skeleton after the file for subcomplexes. That way subcomplexes would not be spread over two files. Let me know if you prefer this, then I will change it.

I think ultimately this would be better, but this sounds out of scope for this PR. I would suggest leaving this on the side for now, then doing the split in its own PR.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 9]
```diff
@@ -524,38 +524,240 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+lemma mem {E : Subcomplex C} {x : X} : x ∈ E ↔ x ∈ (E : Set X) := Iff.rfl
+
+@[ext] lemma ext {E F : Subcomplex C} (h : ∀ x, x ∈ E ↔ x ∈ F) : E = F :=
+  SetLike.ext h
+
+lemma eq_iff (E F : Subcomplex C) : E = F ↔ (E : Set X) = F :=
+  SetLike.coe_injective.eq_iff.symm
+
+/-- Copy of a `Subcomplex` with a new `carrier` equal to the old one. Useful to fix definitional
+equalities. See Note [range copy pattern]. -/
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
equalities. -/
```
I don't think this applies here. Am I missing something?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 10]
```diff
@@ -524,38 +524,240 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+namespace CWComplex
+
+export RelCWComplex (Subcomplex)
+
+namespace Subcomplex
+
+export RelCWComplex.Subcomplex (I closed union mem_carrier coe_eq_carrier mem ext copy coe_copy
+  copy_eq)
+
+end CWComplex.Subcomplex
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:605]: Nice, I didn't know this worked!

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 11]
```diff
@@ -524,38 +524,240 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+  simp_rw [← union]
+  exact subset_union_left
+
+namespace CWComplex.Subcomplex
+
+export RelCWComplex.Subcomplex (subset_complex base_subset)
+
+end CWComplex.Subcomplex
+
+
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion

```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 12]
```diff
@@ -524,38 +524,240 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+    rw [hE, hF]
+    simpa using h
+
+initialize_simps_projections Subcomplex (carrier → coe, as_prefix coe)
+
+lemma mem_carrier {E : Subcomplex C} {x : X} : x ∈ E.carrier ↔ x ∈ (E : Set X) := Iff.rfl
+
+lemma coe_eq_carrier {E : Subcomplex C} : (E : Set X) = E.carrier := rfl
+
+lemma mem {E : Subcomplex C} {x : X} : x ∈ E ↔ x ∈ (E : Set X) := Iff.rfl
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: I would call this `mem_coe` instead, but is there a reason not to use [SetLike.mem_coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/SetLike/Basic.html#SetLike.mem_coe)?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 13]
```diff
@@ -657,25 +848,25 @@ lemma CWComplex.iUnion_openCell_eq_skeleton [CWComplex C] (n : ℕ∞) :
...
+  apply subset_antisymm (iUnion_subset_iff.2 fun _ ↦ (skeleton C _).subset_complex)
   simp_rw [← union_iUnion_openCell_eq_complex, union_subset_iff, iUnion₂_subset_iff]
-  exact ⟨subset_iUnion_of_subset 0 (base_subset_skeleton ↑0),
+  exact ⟨subset_iUnion_of_subset 0 (skeleton C 0).base_subset,
     fun n i ↦ subset_iUnion_of_subset _ (openCell_subset_skeleton n i)⟩
 
 lemma RelCWComplex.mem_skeletonLT_iff [RelCWComplex C D] {n : ℕ∞} {x : X} :
     x ∈ skeletonLT C n ↔ x ∈ D ∨ ∃ (m : ℕ) (_ : m < n) (j : cell C m), x ∈ openCell m j := by
-  simp [← iUnion_openCell_eq_skeletonLT]
+  simp [← iUnion_openCell_eq_skeletonLT, Subcomplex.mem]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: Doesn't [SetLike.mem_coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/SetLike/Basic.html#SetLike.mem_coe) trigger here to remove the coercion? I don't have the time to try it locally right now, but if it doesn't then something weird is going on...

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 14]
```diff
@@ -747,9 +940,9 @@ export RelCWComplex (pairwiseDisjoint disjoint_openCell_of_ne openCell_subset_cl
   cellFrontier_subset_closedCell cellFrontier_union_openCell_eq_closedCell map_zero_mem_openCell
   map_zero_mem_closedCell isCompact_closedCell isClosed_closedCell isCompact_cellFrontier
   isClosed_cellFrontier closure_openCell_eq_closedCell skeletonLT_top skeleton_top skeletonLT_mono
-  skeleton_mono skeletonLT_monotone skeleton_monotone skeletonLT_subset_complex
-  skeleton_subset_complex closedCell_subset_skeletonLT closedCell_subset_skeleton
-  closedCell_subset_complex openCell_subset_skeletonLT openCell_subset_skeleton
+  skeleton_mono skeletonLT_monotone skeleton_monotone closedCell_subset_skeletonLT
+  closedCell_subset_skeleton closedCell_subset_complex openCell_subset_skeletonLT
+  openCell_subset_skeleton
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:940]: This looks a bit hard to maintain... This is of course not your fault, but it may be worth asking on Zulip for a smarter solution (to be precise, the issue is that the `export` should happen right after each declaration, which does not seem feasible with the base syntax).

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 9 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Ah, no, you're absolutely right. I must have copy-pasted this from somewhere. Thanks!

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 12 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Thanks for the suggestion. I have removed this lemma.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 13 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Here, I am actually adding the coercion to be able to rewrite the set.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 14 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:940]: Yes, it is really kind of a nightmare. We are planning on adding an export-tag at some point so that so that the export can be reasonably done for every declaration individually.

Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:940]: Okay you have a plan for this, great!

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 13 above)
Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: This is why you review PRs with Lean open :facepalm:

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 15]
```diff
@@ -524,38 +524,236 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+      suffices E ∩ openCell n j = ∅ by
+        rw [this]
+        exact isClosed_empty
+      simp_rw [← union, union_inter_distrib_right, iUnion_inter]
+      apply sup_eq_bot_iff.mpr ⟨(disjointBase n j).symm.inter_eq, ?_⟩
+      apply iUnion_eq_empty.2 fun m ↦ iUnion_eq_empty.2 fun i ↦ ?_
+      exact (disjoint_openCell_of_ne (by aesop)).inter_eq
+  union' := union
+
+/-- An alternative version of `Subcomplex`: Instead of requiring that `E` is closed it requires
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
/-- An alternative version of `Subcomplex.mk`: Instead of requiring that `E` is closed it requires
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 16]
```diff
@@ -524,38 +524,236 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+  that for every cell of the subcomplex the corresponding closed cell is a subset of `E`. -/
+@[simps! -isSimp]
+def CWComplex.Subcomplex.mk' [T2Space X] (C : Set X) [CWComplex C] (E : Set X)
+    (I : Π n, Set (cell C n))
+    (closedCell_subset : ∀ (n : ℕ) (i : I n), closedCell (C := C) n i ⊆ E)
+    (union : ⋃ (n : ℕ) (j : I n), openCell (C := C) n j = E) : Subcomplex C :=
+  RelCWComplex.Subcomplex.mk' C E I closedCell_subset (by rw [empty_union]; exact union)
+
+/-- An alternative version of `Subcomplex`: Instead of requiring that `E` is closed it requires that
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
/-- An alternative version of `Subcomplex.mk`: Instead of requiring that `E` is closed it requires that
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 17]
```diff
@@ -524,38 +524,236 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+@[simps -isSimp]
+def RelCWComplex.Subcomplex.mk'' [T2Space X] (C : Set X) {D : Set X} [RelCWComplex C D] (E : Set X)
+    (I : Π n, Set (cell C n)) [RelCWComplex E D]
+    (union : D ∪ ⋃ (n : ℕ) (j : I n), openCell (C := C) n j = E) : Subcomplex C where
+  carrier := E
+  I := I
+  closed' := isClosed
+  union' := union
+
+/-- An alternative version of `Subcomplex`: Instead of requiring that `E` is closed it requires that
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
/-- An alternative version of `Subcomplex.mk`: Instead of requiring that `E` is closed it requires that
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 18]
```diff
@@ -524,38 +524,236 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+  closed' := RelCWComplex.isClosed
+  union' := by
+    rw [empty_union]
+    exact union
+
+lemma RelCWComplex.Subcomplex.subset_complex {C D : Set X} [RelCWComplex C D] (E : Subcomplex C) :
+    ↑E ⊆ C := by
+  simp_rw [← union, ← RelCWComplex.union]
+  exact union_subset_union_right _ (iUnion_mono
+    (fun i ↦ iUnion_mono' (fun ⟨j, hj⟩ ↦ ⟨j, openCell_subset_closedCell _ _⟩)))
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: Nitpick:
```suggestion
  simp_rw [← union, ← RelCWComplex.union_iUnion_openCell_eq_complex]
  exact union_subset_union_right _ (iUnion_mono fun _ ↦ iUnion_mono' fun j ↦ ⟨j, subset_rfl⟩)
```

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 19]
```diff
@@ -524,38 +524,236 @@ lemma CWComplex.cellFrontier_subset_finite_openCell [CWComplex C] (n : ℕ) (i :
...
+    (E : Set X) (I : Π n, Set (cell C n))
+    (closedCell_subset : ∀ (n : ℕ) (i : I n), closedCell (C := C) n i ⊆ E)
+    (union : D ∪ ⋃ (n : ℕ) (j : I n), openCell (C := C) n j = E) : Subcomplex C where
+  carrier := E
+  I := I
+  closed' := by
+    have hEC : (E : Set X) ⊆ C := by
+      simp_rw [← union, ← union_iUnion_openCell_eq_complex (C := C)]
+      exact union_subset_union_right D
+        (iUnion_mono fun n ↦ iUnion_subset fun i ↦ by apply subset_iUnion_of_subset ↑i; rfl)
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]:
```suggestion
        (iUnion_mono fun n ↦ iUnion_subset fun i ↦ subset_iUnion _ (i : cell C n))
```

**Review by ADedecker — APPROVED** [review]
Thanks a lot, and sorry again for the late review!

bors d+
